US05378689
(3R, 5S)-5-[(1S)-1-(t-Butoxycarbonyl)amino-2-cyclohexylethyl]-3-methyldihydrofuran-2(3H)-one
2.83 ml (7.07 mmole) of butyllithium (as a 2.5M solution in hexane) were added, at -78° C. and under an atmosphere of nitrogen, to a solution of 0.99 ml (7.07 mmole) of diisopropylamine in 20 ml of anhydrous tetrahydrofuran. The resulting mixture was then stirred at the same temperature for 30 minutes, after which a solution of 1.0 g (3.2 mmole) of (5S)-5-[(1S)-1-(t-butoxycarbonyl)amino-2-cyclohexylethyl]dihydrofuran-2(3H)-one in 10 ml of anhydrous tetrahydrofuran was added to it. The mixture was then stirred at -78° C. for 30 minutes, after which 0.44 ml (7.07 mmole) of methyl iodide was added dropwise. The mixture was then allowed to stand at the same temperature for 1.5 hour, after which it was mixed with a saturated aqueous solution of ammonium chloride and then extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and then concentrated by distillation under reduced pressure. The resulting residue was purified by column chromatography through silica gel (using a 8:1 by volume mixture of hexane and ethyl acetate as the eluent) to afford a colorless oil. This oil was triturated with hexane to crystallize the product, and then the solvent was removed by distillation, to afford 0.69 g of the title compound as white crystals, melting at 80°-82° C.

reactant | butyllithium | 7.07 mmole, 2.83 ml | C(CCC)[Li]
reactant | diisopropylamine | 7.07 mmole, 0.99 ml | C(C)(C)NC(C)C | C6H15N
reactant | (5S)-5-[(1S)-1-(t-butoxycarbonyl)amino-2-cyclohexylethyl]dihydrofuran-2(3H)-one | 3.2 mmole, 1.0 g | C(C)(C)(C)OC(=O)N[C@@H](CC1CCCCC1)[C@@H]1CCC(O1)=O | C17H29NO4
reactant | methyl iodide | 7.07 mmole, 0.44 ml | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (3R, 5S)-5-[(1S)-1-(t-Butoxycarbonyl)amino-2-cyclohexylethyl]-3-methyldihydrofuran-2(3H)-one | 0.69 g | C(C)(C)(C)OC(=O)N[C@@H](CC1CCCCC1)[C@@H]1C[C@H](C(O1)=O)C | C18H31NO4
